US03975375
C. 1-Phenylsulfonyl-2-oxo-1,3-diaza-cyclohexane ##SPC97##
20.4 parts by weight of benzenesulfochloride in 20 parts by volume of tetrahydrofurane were added dropwise at 10°-15°C over the course of 15 minutes to a stirred mixture of 10 parts by weight of 1,3-diaza-cyclohexane-2-one, 80 parts by volume of tetrahydrofurane and 80 parts by volume of chloroform, followed by 10.1 parts by weight of triethylamine at the same temperature. The mixture was stirred at 10°-15°C for 30 minutes and then overnight at 50°C. Subsequently the mixture was evaporated to dryness; the residue was stirred with 100 parts by volume of water, filtered, stirred with water once more, filtered and washed with ethanol.

reactant | benzenesulfochloride | C1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | 1,3-diaza-cyclohexane-2-one | N1C(NCCC1)=O | C4H8N2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Phenylsulfonyl-2-oxo-1,3-diaza-cyclohexane | C1(=CC=CC=C1)S(=O)(=O)N1C(NCCC1)=O | C10H12N2O3S
